datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CC[N:72]([C:61]([S-:10])=[S:62])C1.C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([S:10][C:61](=[S:62])[N:72]2CCCC2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10=20;20,21=21,22;22,23=23"
"C[Si:11](C)([H:10])[CH2:62][Sn:63](C)(C)C.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>C[Si+:11](C)[CH2:62][Sn:63](C)(C)C.[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4CC[CH:20]([H:10])C1C2C43 10,11=10,20;20,21=21"
"C[C:11](=[CH2:10])[CH:62]=[CH2:63].[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C[C+:11]([CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[CH:62]=[CH2:63] 10,11=10,20"
"CC1=C[C:64]2=[C:63](C=C1)[NH:62][C:61](C)=[N:10]2.CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20](C)[N+:10]1=[C:61](C)[NH:62][C:63]2=[C:64]1C=C(C)C=C2)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCCC1)=[O:62].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CC[O:72][C:61]([C:10]1([CH:20]([C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)CCCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCCC/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC.C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CCCC[C:10]([C:11](=[O:12])[O:61]CC)([C:20](C)(C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12"
CC[O:92][C:61]([C-:10](OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:92][C:61]([C:10](OC)([C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20
"C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1.[O-:10][C:61]#[N:62]>>C[N+]1=C([C:22](=[CH:21][CH:20]([O:10][C:61]#[N:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10=20;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.[CH-:10]([C:71]([C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)=[O:72])[N+:81](=[O:82])[O-:92]>>C[N:21](C)[CH:20]([CH:10]([C:71]([C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)=[O:72])[N+:81](=[O:82])[O-:92])[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:82][C:61]([CH-:10][P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:61](=[O:62])[O:82]CC)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25].C[C:61]([CH-:10][C:71](C)=[O:72])=[O:62]>>C[C:21]([CH:20]([CH:10]([C:61](C)=[O:62])[C:71](C)=[O:72])[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](N)[O-:25] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.C[S+:61](C)[CH-:10][C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:83]=[CH:82]1>>C[S+:61](C)[CH:10]([C:20]([N-:21]C1=CC=CC=C1)=[N:31]C1=CC=CC=C1)[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:83]=[CH:82]1 10=20;20,21=21"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32].[H:10][BH3-:11]>>CC[O:33][C:31]([CH:20]([H:10])[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32].[BH3:11] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.CC(C)[Si:11](C(C)C)(C(C)C)[H:10]>>C1C[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.CC(C)[Si+:11](C(C)C)C(C)C 10,11=10,20;20,21=21,22;22,23=23"
"Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[Si](C)(C)[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:73]=[CH:72]1>>C[Si](C)(C)[C+:11]([CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Br)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:73]=[CH:72]1 10,11=10,20"
